US05559230
A mixture of 4,5-epoxy-1-[4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.5 g), dimethylamine hydrochloride (2.6 g), triethylamine (4.5 g) and methanol (15 ml) is refluxed for 19 hours. After completion of the reaction, the solvent is distilled off and the resulting residue is dissolved in dichloromethane. The mixture is washed successively with water and saturated saline solution. The solvent is distilled off and the resulting residue is purified by silica gel column chromatography (eluent; dichloromethane:methanol=50:1), and recrystallized from ethanol/diethyl ether to give trans-5-dimethylamino-4-hydroxy-1-[4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.38 g) as colorless needles, m.p. 180°-182° C.

reactant | 4,5-epoxy-1-[4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.5 g | O1C2CCN(C3=C(C21)C=CC=C3)C(C3=CC=C(C=C3)NC(C3=C(C=CC=C3)Cl)=O)=O | C24H19ClN2O3
reactant | dimethylamine hydrochloride | 2.6 g | Cl.CNC
reactant | triethylamine | 4.5 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 15 ml | CO | CH4O
product | trans-5-dimethylamino-4-hydroxy-1-[4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.38 g | CN([C@H]1[C@@H](CCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O)O)C | C26H26ClN3O3
